US06329366B1
Thionyl chloride (8.15 g, 5 ml, 0.069 mol) was added to a stirred solution of 2,2-dimethylmalonic acid (7.26 g, 0.055 mol) in dry THF (55 ml). The mixture was heated under reflux for 3 hr. The reaction mixture was cooled to room temperature and 4-methylthioaniline (15.3 g, 0.11 mol) in THF (30 ml) was then added dropwise over 30 mins to the solution. The mixture was stirred at room temperature for 2 hr. The reaction mixture was then concentrated in vacuo and then treated with hydrochloric acid (2N, 100 ml). The product was extracted with ethyl acetate (2×100 ml). The organic extracts were combined, then washed with water (100 ml) and saturated sodium hydrogen carbonate solution (5×80 ml). The organic layer was then acidified with hydrochloric acid (5N, 250 ml) and the resultant white crystalline precipitate was collected by filtration to afford N-(4-methylthiophenyl)-2,2-dimethylmalonamic acid. mp 130-132° C.

reactant | Thionyl chloride | 0.069 mol, 5 ml, 8.15 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,2-dimethylmalonic acid | 0.055 mol, 7.26 g | CC(C(=O)O)(C(=O)O)C | C5H8O4
reactant | 4-methylthioaniline | 0.11 mol, 15.3 g | CSC1=CC=C(N)C=C1 | C7H9NS
solvent | THF | 55 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-(4-methylthiophenyl)-2,2-dimethylmalonamic acid | CSC1=CC=C(C=C1)NC(C(C(=O)O)(C)C)=O | C12H15NO3S
